US08669234B2
(1-{4-Difluoromethoxymethyl-2-[5-(4′-{2-[1-(2-methoxycarbonylamino-3-methyl-butyryl)-pyrrolidin-2-yl]-3H-imidazol-4-yl}-biphenyl-4-yl)-1H-imidazol-2-yl]pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester:
(1-{2-[5-(4-Bromo-phenyl)-1H-imidazol-2-yl]-4-difluoromethoxymethyl-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester (42 mg, 0.174 mmol), [2-Methyl-1-(2-{5-[4-(4,4,5,5-tetramethyl-[1,3 ,2]dioxaborolan-2-yl)-phenyl]-1H-imidazol-2-yl}-pyrrolidine-1-carbonyl)-propyl]-carbamic acid methyl ester (95 mg, 0.191 mmol), Pd(PPh3)4 (20 mg, 0.0174 mmol) and K2CO3 (2M in H2O, 0.191 mL, 0.383 mmol) were combined in 1,2-dimethoxyethane (2 mL). The mixture was degassed with bubbling N2 for 12 min then heated to 85° C. for 4 h. After cooling to RT, the reaction mixture was diluted with EtOAc then washed with water and brine. The organic layer was dried over MgSO4, filtered and concentrated. The crude residue was purified by HPLC to provide the title compound (42 mg, 30%). MS (ESI) m/z 819 [M+H]+.

reactant | (1-{2-[5-(4-Bromo-phenyl)-1H-imidazol-2-yl]-4-difluoromethoxymethyl-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester | 0.174 mmol, 42 mg | COC(NC(C(C)C)C(=O)N1C(CC(C1)COC(F)F)C=1NC(=CN1)C1=CC=C(C=C1)Br)=O | C22H27BrF2N4O4
reactant | [2-Methyl-1-(2-{5-[4-(4,4,5,5-tetramethyl-[1,3 ,2]dioxaborolan-2-yl)-phenyl]-1H-imidazol-2-yl}-pyrrolidine-1-carbonyl)-propyl]-carbamic acid methyl ester | 0.191 mmol, 95 mg | COC(NC(C(C)C)C(=O)N1C(CCC1)C=1NC(=CN1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)=O | C26H37BN4O5
reactant | K2CO3 | 0.383 mmol, 2M, 0.191 mL | C(=O)([O-])[O-].[K+].[K+]
solvent | 1,2-dimethoxyethane | 2 mL | COCCOC | C4H10O2
catalyst | Pd(PPh3)4 | 0.0174 mmol, 20 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (1-{4-Difluoromethoxymethyl-2-[5-(4′-{2-[1-(2-methoxycarbonylamino-3-methyl-butyryl)-pyrrolidin-2-yl]-3H-imidazol-4-yl}-biphenyl-4-yl)-1H-imidazol-2-yl]pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester | 42 mg, 30% | COC(NC(C(C)C)C(=O)N1C(CC(C1)COC(F)F)C=1NC(=CN1)C1=CC=C(C=C1)C1=CC=C(C=C1)C=1NC(=NC1)C1N(CCC1)C(C(C(C)C)NC(=O)OC)=O)=O | C42H52F2N8O7
